US04923984
To a solution of 11.208 g (54.93 mM) of 2'-amino-2,5'-di-chloroacetophenone in 281 ml of CH3CN is added 24.7 g (165 mM) of NaI, and the mixture is stirred at room temperature for 2.5 hr. and concentrated under reduced pressure. The residue is dissolved in ethyl acetate, washed with aqueous Na2S2O3, and brine in order, dried and concentrated to give 16.1 g (Yield: 99.2%) of 2'-amino-5'-chloro-2-iodoacetophenone as crystals.

reactant | 2'-amino-2,5'-di-chloroacetophenone | 54.93 mM, 11.208 g | NC1=C(C=C(C=C1)Cl)C(CCl)=O | C8H7Cl2NO
reactant | NaI | 165 mM, 24.7 g | [Na+].[I-]
solvent | CH3CN | 281 ml | CC#N | C2H3N
product | 2'-amino-5'-chloro-2-iodoacetophenone | 16.1 g, Yield: 99.2% | NC1=C(C=C(C=C1)Cl)C(CI)=O | C8H7ClINO
